*********************************************
* cell_component_py.lib 					*
* Lib circuit for PV panel simulations  	*
*********************************************

.subckt cell_py 300 303 params: irrad=1000, i0=9.825e-8, iph=8.214, rs=0.221, rsh=415.405, a=1.3, ktq=0.025670412, ns=54

girrad 300 301 value={(iph)*(irrad)/1000}
d2 301 300 diode

rs 301 303 {rs}
rsh 301 300 {rsh}

.model diode d(is=i0,n=a*ns,TNOM=25)
.ends cell_py
